US08455499B2
Step 3: 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester
2-(4-Bromo-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester (23.81 g, 76.6 mmol) and hydroxylamine hydrochloride (5.32 g, 76.6 mmol) were combined in acetic acid (400 mL) and stirred at 60° C. overnight. After cooling to room temperature, the mixture was concentrated to dryness, and then concentrated twice from toluene (200 mL) to remove residual acetic acid. The residue was partitioned between EtOAc and H2O, and the organic layer was separated and washed twice with H2O. The combined aqueous layers were back-extracted with EtOAc, and the combined organic layers were concentrated. The crude material was filtered through a plug of silica gel, and the filtrate was concentrated to give the title compound.

reactant | 2-(4-Bromo-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester | 76.6 mmol, 23.81 g | COC(C(/C(/C)=N/C)C(C1=CC=C(C=C1)Br)=O)=O | C13H14BrNO3
reactant | hydroxylamine hydrochloride | 76.6 mmol, 5.32 g | Cl.NO
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C12H10BrNO3
